US06686381B2
Thiophene-2-sulfonic Acid {3-[4-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-amide
A solution of 15.6 mg (0.5 mmol) [2-(3-Amino-propylamino)-thiazol-4-yl]-o-tolyl-methanone hydrochloride in 1 ml methanol was treated with 11.9 mg (0.65 mmol) thiophene-2-sulfonyl chloride in 0.13 ml dioxane and 34.7 ul NEt3. The mixture was stirred at 60° C. for 16 h and after addition of 0.5 ml formic acid subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient. Evaporation of the product fractions yielded 6.2 mg (29%) of the title compound.

reactant | [2-(3-Amino-propylamino)-thiazol-4-yl]-o-tolyl-methanone hydrochloride | 0.5 mmol, 15.6 mg | Cl.NCCCNC=1SC=C(N1)C(=O)C1=C(C=CC=C1)C
reactant | thiophene-2-sulfonyl chloride | 0.65 mmol, 11.9 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | formic acid | 0.5 ml | C(=O)O | CH2O2
solvent | methanol | 1 ml | CO | CH4O
solvent | dioxane | 0.13 ml | O1CCOCC1 | C4H8O2
solvent | NEt3 | 34.7 ul | CCN(CC)CC | C6H15N
product | Thiophene-2-sulfonic Acid {3-[4-(2-Methyl-benzoyl)-thiazol-2-ylamino]-propyl}-amide | 6.2 mg, 29% | CC1=C(C(=O)C=2N=C(SC2)NCCCNS(=O)(=O)C=2SC=CC2)C=CC=C1 | C18H19N3O3S3
